US06028195
a) Phenyl N-(5,6-dimethyl-2-methoxypyridin-3-yl)carbamate
3-Amino-5,6-dimethyl-2-methoxypyridine(1.52 g, 0.01 mol) and phenylchloroformate(1.56 g, 0.01 mol) were dissolved in dichloromethane and was stirred at room temperature for 2 hours. The mixture was concentrated under the reduced pressure to remove the solvent. The concentrate was purified by column chromatography(ethylacetate:hexane=1:6) to obtain the titled compound.

reactant | 3-Amino-5,6-dimethyl-2-methoxypyridine | 0.01 mol, 1.52 g | NC=1C(=NC(=C(C1)C)C)OC | C8H12N2O
reactant | phenylchloroformate | 0.01 mol, 1.56 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Phenyl N-(5,6-dimethyl-2-methoxypyridin-3-yl)carbamate | yield: 92% | CC=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C15H16N2O3
